US08044206B2
Under argon atmosphere, 10 ml of toluene and 87 μl of morpholine were added to a mixture of 300 mg of tert-butyl 4-[(E)-2-(4-bromo-2,6-dimethylphenyl)vinyl]piperidine-1-carboxylate, 110 mg of sodium tert-butoxide, 45 mg of bisdibenzylideneacetone palladium and 48 mg of BINAP. The resulting mixture was heated at 100° C. for 11 hours with stirring. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 289 mg of tert-butyl 4-[(E)-2-(2,6-dimethylphenyl-4-morpholin-4-yl-phenyl)vinyl]piperidine-1-carboxylate.

reactant | morpholine | 87 μl | N1CCOCC1 | C4H9NO
reactant | tert-butyl 4-[(E)-2-(4-bromo-2,6-dimethylphenyl)vinyl]piperidine-1-carboxylate | 300 mg | BrC1=CC(=C(C(=C1)C)/C=C/C1CCN(CC1)C(=O)OC(C)(C)C)C | C20H28BrNO2
reactant | sodium tert-butoxide | 110 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 48 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-[(E)-2-(2,6-dimethylphenyl-4-morpholin-4-yl-phenyl)vinyl]piperidine-1-carboxylate | 289 mg | CC1=C(C(=CC=C1)C)C1=C(C=CC(=C1)N1CCOCC1)/C=C/C1CCN(CC1)C(=O)OC(C)(C)C | C30H40N2O3
